US06114365
Preparation of 2-(-amino-1,3-thiazol-4-yl)-N-(5-isopropyl-1,3-thiazol-2-yl)acetamide
Trifluoroacetic acid (168 ml) was added to a solution of tert-butyl 4-{2-[(5-isopropyl-1,3-thiazol-2-yl)amino]-2-oxoethyl)-1,3-thiazol-2-ylcarbamate (22 g, 57.51 mmol) in CH2Cl2 (750 ml) and anisole (9.33 ml, 86.27 mmol) under ice-cooling.

reactant | Trifluoroacetic acid | 168 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-{2-[(5-isopropyl-1,3-thiazol-2-yl)amino]-2-oxoethyl)-1,3-thiazol-2-ylcarbamate | 57.51 mmol, 22 g | C(C)(C)C1=CN=C(S1)NC(CC=1N=C(SC1)NC(OC(C)(C)C)=O)=O | C16H22N4O3S2
reactant | anisole | 86.27 mmol, 9.33 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | CH2Cl2 | 750 ml | C(Cl)Cl | CH2Cl2
product | 2-(-amino-1,3-thiazol-4-yl)-N-(5-isopropyl-1,3-thiazol-2-yl)acetamide | NC=1SC=C(N1)CC(=O)NC=1SC(=CN1)C(C)C | C11H14N4OS2
